US07666879B2
A. (4-{7-[6-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-imidazo[1,2-a]pyridin-3-yl}-benzyl)-carbamic acid tert-butyl ester
Dissolve {4-[7-(6-fluoro-pyridin-3-yl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-carbamic acid tert-butyl ester (0.500 g, 1.19 mmol, 1.0 eq.) and N-methyl piperazine (0.53 mL, 4.78 mmol, 4.0 eq.) in DMSO (20 mL). Add K2CO3 (0.330 g, 2.0 eq.). Stir the reaction mixture at 80° C. overnight. Pour the mixture into 20 mL of ice. Filter the solid, and purify by silica gel chromatography with a 0-5% MeOH/DCM gradient to give the title compound 0.408 g (0.82 mmol, 70%) as a slightly yellow solid. Use the solid directly in the reaction B below: MS(ES), m/z 499 (M+1).

reactant | {4-[7-(6-fluoro-pyridin-3-yl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-carbamic acid tert-butyl ester | 1.19 mmol, 0.500 g, 1.0 eq. | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C=2C=NC(=CC2)F)=O | C24H23FN4O2
reactant | N-methyl piperazine | 4.78 mmol, 0.53 mL, 4.0 eq. | CN1CCNCC1 | C5H12N2
reactant | K2CO3 | 0.330 g, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (4-{7-[6-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-imidazo[1,2-a]pyridin-3-yl}-benzyl)-carbamic acid tert-butyl ester | 0.82 mmol, 0.408 g, 70% | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C=2C=NC(=CC2)N2CCN(CC2)C)=O | C29H34N6O2
